US08278295B2
Preparation of tert-butyl 3-(pyrazin-2-yloxy)azetidine-1-carboxylate
Compound P22 was prepared according to the general procedure described for the synthesis of P21 in Preparation 21, using 2-chloropyrazine in place of 2-bromopyridine, to afford P22. LCMS (ESI) m/z 252.4 (M+1). 1H NMR (400 MHz, CDCl3) δ 1.43 (s, 9H), 3.97 (m, 2H), 4.32 (m, 2H), 5.30 (m, 1H), 8.03 (dd, J=2.5, 1.2 Hz, 1H), 8.16 (d, J=2.5 Hz, 1H), 8.26 (d, J=1.2 Hz, 1H). Compound P22 was deprotected with trifluoroacetic acid as described for tert-butyl 3-hydroxyazetidine-1-carboxylate in the preparation of C19 in Example 3, before being used in the coupling step.

reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-hydroxyazetidine-1-carboxylate | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
product | tert-butyl 3-(pyrazin-2-yloxy)azetidine-1-carboxylate | N1=C(C=NC=C1)OC1CN(C1)C(=O)OC(C)(C)C | C12H17N3O3
